US05134231
Methyl (S)-(+)-2-methyl-3-hydroxypropionate (2.36 g; 20 mmole) was dissolved in dry dichloromethane (30 ml), conc. sulfuric acid (0.2 ml) was added thereto, and isobutene (23.5 g) was introduced into the resultant mixture kept at -60° to -70° C., followed by stirring at room temperature for 3 hours. The reaction mixture was sealed and stirred overnight, and unreacted isobutene was removed therefrom by distillation. The mixture was washed successively with water and a saturated sodium bicarbonate solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give methyl (S)-3-t-butoxy-2-methylpropionate.

reactant | Methyl (S)-(+)-2-methyl-3-hydroxypropionate | 20 mmole, 2.36 g | C[C@H](C(=O)OC)CO | C5H10O3
reactant | sulfuric acid | 0.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutene | 23.5 g | C=C(C)C | C4H8
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | methyl (S)-3-t-butoxy-2-methylpropionate | C(C)(C)(C)OC[C@@H](C(=O)OC)C | C9H18O3
